US07235555B2
3-[2-Chloro 3-methyl-5(4-methyl-piperazin-1-yl)-phenyl]-4-(1 H-indol-3-yl) -pyrrole-2,5-dione
2-[2-Chloro-3-methyl-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide (211 mg, 0.75 mmol) and 3-indoleglyoxylate (270 mg, 1.35 mmol) are dissolved in THF (5 mL). A solution of 1.0 M tert-BuOK in THF (2.98 mL, 4 eq) is added and the mixture is stirred at 35° C. overnight. The reaction is diluted with AcOEt (20 mL) and washed with H2O (20 mL) and brine (10 mL). The organic phase is dried over Na2SO4 and the solvent is evaporated. The residue is purified by FCC (AcOEt/AcOH/H2O 7:1:1) to afford the title compound in the form of its acetate salt. 1H NMR (DMSO, 400 MHz) δ 2.16 (s, 3H), 2.31 (s, 3H), 2.32-2.38 (m, 4H), 2.97-3.10(m, 4H), 6.61 (d, J=8.0 Hz, 1H), 6.71-6.77 (m, 2H), 7.04 (d, J=2.8 Hz, 1H), 7.08(dd,J=7.4, 7.2 Hz, 1H), 7.41 (d, J=8.2 Hz, 1H), 7.98 (d, J=1.5Hz, 1H), 11.05 (br s, 1H), 11.90(br s, 1H); ES-MS: 435 [M+H]+.

reactant | 2-[2-Chloro-3-methyl-5-(4-methyl-piperazin-1-yl)-phenyl]-acetamide | 0.75 mmol, 211 mg | ClC1=C(C=C(C=C1C)N1CCN(CC1)C)CC(=O)N | C14H20ClN3O
reactant | 3-indoleglyoxylate | 1.35 mmol, 270 mg | N1C=C(C2=CC=CC=C12)C(C(=O)[O-])=O
reactant | tert-BuOK | 1.0 M | C(C)(C)(C)O[K]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | AcOEt | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2.98 mL, 4 eq | C1CCOC1 | C4H8O
product | 3-[2-Chloro 3-methyl-5(4-methyl-piperazin-1-yl)-phenyl]-4-(1 H-indol-3-yl) -pyrrole-2,5-dione | ClC1=C(C=C(C=C1C)N1CCN(CC1)C)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C24H23ClN4O2
